US04018889
Magnesium ions combine with oxytetracycline in solution to form magnesium-oxytetracycline chelates. Magnesium oxide is a convenient and preferred source of magnesium ions, but other magnesium compounds useful for the purpose of this invention include magnesium chloride, magnesium acetate, magnesium sulfate, magnesium ascorbate, magnesium lactate and magnesium gluconate. The molar ratio of magnesium to oxytetracycline in these compositions is about from 0.8 to 1.3 mole of oxytetracycline. This ratio is necessary to produce clear stable solutions. Suspended solids remain in the solvent when introduction of less than 0.8 or more than 1.3 moles of magnesium ion is used.

reactant | Magnesium | [Mg] | Mg
reactant | oxytetracycline | C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H]([C@H]([C@@H]31)O)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | C22H24N2O9
product | magnesium oxytetracycline | [Mg].C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H]([C@H]([C@@H]31)O)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | InChI=1S/C22H24N2O9.Mg/c1-21(32)7-5-4-6-8(25)9(7)15(26)10-12(21)17(28)13-14(24(2)3)16(27)11(20(23)31)19(30)22(13,33)18(10)29;/h4-6,12-14,17,25,27-29,32-33H,1-3H3,(H2,23,31);/t12-,13-,14+,17+,21-,22+;/m1./s1
